US09428452B2
methyl 5-(N-(4-ethylphenyl)-N-isobutylsulfamoyl)-2-hydroxybenzoate
To a solution of 4-ethyl-N-isobutylaniline (598 mg, 3.37 mmol) in pyridine (10 mL) stirred in air at 20° C., was added methyl 5-(chlorosulfonyl)-2-hydroxybenzoate (845 mg, 3.37 mmol) portionwise, over 1 hour. The reaction mixture was then stirred at 20° C. for 30 minutes. The solvent was evaporated in vacuo to give the crude product as a yellow sticky solid. This was triturated with methanol then filtered and dried to give the title product as a white solid, 907 mg. LCMS [LCMS1] Rt 1.38 min, m/z (ES+) 392 (M+H).

reactant | 4-ethyl-N-isobutylaniline | 3.37 mmol, 598 mg | C(C)C1=CC=C(NCC(C)C)C=C1 | C12H19N
reactant | methyl 5-(chlorosulfonyl)-2-hydroxybenzoate | 3.37 mmol, 845 mg | ClS(=O)(=O)C=1C=CC(=C(C(=O)OC)C1)O | C8H7ClO5S
solvent | pyridine | 10 mL | N1=CC=CC=C1 | C5H5N
product | methyl 5-(N-(4-ethylphenyl)-N-isobutylsulfamoyl)-2-hydroxybenzoate | C(C)C1=CC=C(C=C1)N(S(=O)(=O)C=1C=CC(=C(C(=O)OC)C1)O)CC(C)C | C20H25NO5S
